US08808703B2
Step 1: (S)-2-((dodecyloxy)methyl)oxirane
A solution of (S)-3-(dodecyloxy)propane-1,2-diol (1 eq) in HBr/AcOH (33 wt %, 0.4 M) was stirred at 35° C. for 30 minutes. The reaction mixture was cooled down to 0° C., diluted with DCM and tuned to pH 7 by adding saturated Na2CO3. The organic layer was separated, dried over Na2SO4 and concentrated en vaccuo. The residue was dissolved in MeOH (0.5 M), cooled down to 0° C. and treated with NaOH (3N in MeOH, 2.5 eq). The reaction mixture was stirred for 30 minutes and diluted with Et2O. The organic layer was separated, washed with H2O and brine, dried over Na2SO4 and concentrated en vaccuo to give the title product as a colorless viscous oil without further purification.

reactant | (S)-3-(dodecyloxy)propane-1,2-diol | 1 eq | C(CCCCCCCCCCC)OC[C@H](CO)O | C15H32O3
reactant | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
reactant | NaOH | 3N, 2.5 eq | [OH-].[Na+]
solvent | HBr AcOH | 0.4 M | Br.CC(=O)O
solvent | DCM | C(Cl)Cl | CH2Cl2
solvent | Et2O | CCOCC | C4H10O
product | (S)-2-((dodecyloxy)methyl)oxirane | C(CCCCCCCCCCC)OC[C@H]1OC1 | C15H30O2
